US07589200B2
In like manner to the preparartion of N4-(4-ethyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(4-n-hexyloxyphenyl)-5-fluoro-4-pyrimidineamine with 3,4-ethylenedioxyaniline gave N4-(4-n-hexyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyridinediamine. The crude product was purified by chromatography (2:1 CHCl3/EtOAc) (0.22 g, 69%) as a tan solid: Rf 0.54 (4:1 CHCl3/EtOAc); mp 124.0–125.2° C. (DSC); 1H NMR (300 MHz, CDCl3) δ 7.88 (d, J=3.2 Hz, 1H), 7.47 (d, J=8.9 Hz, 2H), 7.18 (d, J=2.4 Hz, 1H), 6.91–6.86 (m, 3H), 6.78–6.74 (m, 2H), 6.62 (d, J=1.8 Hz, 1H), 4.26–4.22 (m, 4H), 3.96 (t, J=6.5, 2H), 1.83–1.74 (m, 2H), 1.51–1.42 (m, 2H), 1.36–1.32 (m, 4H), 0.93–0.89 (t, J=6.7 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 156.1, 150.5, 143.5, 143.0, 142.8, 140.2, 139.9, 139.5, 139.2, 133.9, 130.7, 123.1, 117.1, 115.0, 113.5, 109.3, 68.5, 64.7, 64.5, 31.8, 29.5, 25.9, 22.8, 14.2; IR (ATR) 3378 cm−1; ESI MS m/z 439 [C24H27FN4O3+H]+; HPLC (Method A) >99% (AUC), tR=14.6 min. Anal. Calcd for C24H27FN4O3: C, 65.74; H, 6.21; N, 12.78. Found: C, 65.52; H, 6.23; N, 12.66.

reactant | N4-(4-ethyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC1=CC=C(C=C1)NC1=NC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2 | C20H19FN4O3
reactant | 2-chloro-N4-(4-n-hexyloxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCCCCCC)F | C16H19ClFN3O
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N4-(4-n-hexyloxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyridinediamine | C(CCCCC)OC1=CC=C(C=C1)NC1=CC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2 | C25H28FN3O3
